US08486979B2
2,3,6-trifluoro-5-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)phenol
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 2,4,5-trifluoro-3-hydroxybenzoic acid (Aldrich). 1H NMR (300 MHz, CD3OD) δ 7.63-7.76 (m, 2 H), 8.44 (dt, J=7.9, 2.0 Hz, 1 H), 8.83 (dd, J=4.8, 1.6 Hz, 1 H), 9.25 (d, J=1.6 Hz, 1 H) ppm; MS (DCI/NH3) m/z 294 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 2,4,5-trifluoro-3-hydroxybenzoic acid | FC1=C(C(=O)O)C=C(C(=C1O)F)F | C7H3F3O3
reactant | NH3 | N | H3N
product | 2,3,6-trifluoro-5-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)phenol | FC1=C(C(=C(C=C1F)C1=NC(=NO1)C=1C=NC=CC1)F)O | C13H6F3N3O2
